US07589232B2
4-{(3-cyclopentylpropanoyl)[4-(5-phenylpent-1-yn-1-yl)benzyl]amino}-2-hydroxybenzoic acid N-methyl-D-glucamine (i.e. 1-deoxy-1-(methylamino)glucitol) salt
The titled compound was prepared following the procedure D using 4-{(3-cyclopentylpropanoyl)[4-(5-phenylpent-1-yn-1-yl)benzyl]amino}-2-hydroxybenzoic acid and N-methyl-D-glucamine as a beige powder (86%). M− (ESI): 508.3. M+ (ESI): 510.4. HPLC, Rt: 5.57 min (Purity: 98.8%).

reactant | 4-{(3-cyclopentylpropanoyl)[4-(5-phenylpent-1-yn-1-yl)benzyl]amino}-2-hydroxybenzoic acid | C1(CCCC1)CCC(=O)N(C1=CC(=C(C(=O)O)C=C1)O)CC1=CC=C(C=C1)C#CCCCC1=CC=CC=C1 | C33H35NO4
reactant | N-methyl-D-glucamine | CNC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C7H17NO5
product | 4-{(3-cyclopentylpropanoyl)[4-(5-phenylpent-1-yn-1-yl)benzyl]amino}-2-hydroxybenzoic acid N-methyl-D-glucamine | CNC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO.C1(CCCC1)CCC(=O)N(C1=CC(=C(C(=O)O)C=C1)O)CC1=CC=C(C=C1)C#CCCCC1=CC=CC=C1 | InChI=1S/C33H35NO4.C7H17NO5/c35-31-23-29(20-21-30(31)33(37)38)34(32(36)22-19-26-13-7-8-14-26)24-28-17-15-27(16-18-28)12-6-2-5-11-25-9-3-1-4-10-25;1-8-2-4(10)6(12)7(13)5(11)3-9/h1,3-4,9-10,15-18,20-21,23,26,35H,2,5,7-8,11,13-14,19,22,24H2,(H,37,38);4-13H,2-3H2,1H3/t;4-,5+,6+,7+/m.0/s1
